US07696215B2
A suspension of 2-amino-5-methoxybenzoic acid (18.7 g) in toluene (250 ml) was added triethylorthoformate (19.6 ml) and acetic acid (0.64 ml) and heated at 110° C. for 3 hours when methyl-3-amino-4-methylbenzoate (16.7 g) was added and heating continued for a further 16 hours at 110° C. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The organic phase was washed with 1N NaOH and 1N HCl. The organic phase was left to stand for 54 hours which resulted in crystallisation of a solid which was collected by filtration and air dried to give methyl 3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate (9.3 g); NMR Spectrum: (DMSOd6) 2.18 (s, 3H), 3.84 (s, 3H), 3.92 (s, 3H), 7.28 (m, 1H), 7.59 (m, 2H), 7.73 (d, 1H), 7.93 (s, 1H), 7.98 (m, 1H), 8.19 (s, 1H); Mass Spectrum: M+H+ 325.

reactant | 2-amino-5-methoxybenzoic acid | 18.7 g | NC1=C(C(=O)O)C=C(C=C1)OC | C8H9NO3
reactant | triethylorthoformate | 19.6 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic acid | 0.64 ml | C(C)(=O)O | C2H4O2
reactant | methyl-3-amino-4-methylbenzoate | 16.7 g | COC(C1=CC(=C(C=C1)C)N)=O | C9H11NO2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-(6-methoxy-4-oxoquinazolin-3(4H)-yl)-4-methylbenzoate | 9.3 g | COC=1C=C2C(N(C=NC2=CC1)C=1C=C(C(=O)OC)C=CC1C)=O | C18H16N2O4
